US05929117
2',5'-Dichloro-3,4-dimethoxybenzophenone was prepared analogously to 3,4,3',4'-tetramethoxybenzophenone using veratrole (2.15 mL, 15 mmol), aluminum chloride (2.2 g, 16.5 mmol) and 2,5-dichlorobenzoyl chloride (1.9 mL, 15 mmol) with a reaction time of 3 hours at reflux. The crude product was purified by flash column chromatography (silica gel, 2.5% ethyl acetate/methylene chloride) to afford 3.88 g (83%) of the product as a white solid: mp 129-130° C.; 1H NMR (CDCl3) δ 7.65-7.56 (m, 1H), 7.41-7.12 (m, 4H), 6.89-6.81 (m, 1H), 3.96 (s, 3H), 3.94 (s, 3H); 13C NMR (CDCl3) δ 191.1, 154.4, 149.6, 137.9, 132.0, 130.5, 128.7, 128.0, 125.7, 110.2, 56.1, 56.0; Anal. Calcd for C15H12C2O3. Theoretical: C, 57.90; H, 3.89. Found: C, 57.58; H, 3.87.

reactant | 3,4,3',4'-tetramethoxybenzophenone | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=CC1OC | C17H18O5
reactant | veratrole | 15 mmol, 2.15 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 16.5 mmol, 2.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,5-dichlorobenzoyl chloride | 15 mmol, 1.9 mL | ClC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3Cl3O
product | 2',5'-Dichloro-3,4-dimethoxybenzophenone | ClC1=C(C=C(C=C1)Cl)C(C1=CC(=C(C=C1)OC)OC)=O | C15H12Cl2O3
